US07960552B2
To a solution of methyl 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylate (50 mg, 0.091 mmol) in 2:1 tetrahydrofuran:methanol (3 mL) was added 1 N sodium hydroxide (0.14 mL, 0.14 mmol). The solution was heated in a microwave reactor at 100° C. for 500 seconds. Then 1 N hydrochloric acid (0.14 mL, 0.14 mmol) was added and the mixture was concentrated. The residue was taken up with ethyl acetate and water. The layers were separated and the organic layer was washed with water, dried over magnesium sulfate and concentrated to afford 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylic acid (41 mg, 84%). 1H-NMR (400 MHz, DMSO-d6) δ 9.41 (s, 1H), 8.61 (s, 1H), 8.49 (s, 1H), 8.24-8.18 (m, 2H), 7.85 (d, J=9 Hz, 2H), 7.16 (d, J=9 Hz, 2H), 7.00-6.90 (m, 3H), 5.06 (s, 2H), 4.90 (s, 2H), 4.01-3.90 (m, 1H), 2.39-2.30 (m, 4H), 2.14 (s, 6H), 2.10-2.00 (m, 1H), 1.90-1.89 (m, 1H). HRMS (ESI) C33H30N2O5 calculated: 535.2228 (M+H)+, found: 535.2228 (M+H)+.

reactant | methyl 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylate | 0.091 mmol, 50 mg | C1(CCC1)C1=C(C(=NO1)COC1=C(C=CC=C1C)C)COC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)OC | C34H32N2O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.14 mmol, 1 N, 0.14 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.14 mmol, 1 N, 0.14 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylic acid | 41 mg, 84% | C1(CCC1)C1=C(C(=NO1)COC1=C(C=CC=C1C)C)COC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)O | C33H30N2O5
